US07759337B2
Synthesis of 3-bromo-N-cyclopropyl-4-methylbenzamide
3-Bromo-4-methylbenzoic acid (8.35 g, 33 mmol), I H-benzo[d] [1,2,3]triazol-1-ol (4.44 g, 33 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (6.31 g, 33 mmol), and cyclopropylamine (2.5 mL, 36 mmol) were dissolved in dichloromethane (20 mL) and stirred at RT for 16 h. The reaction was diluted with dichloromethane (100 mL), washed 3× with 50 mL of sodium bicarbonate (saturated, aqueous) and 2× with 50 mL of 3 N HCl (aqueous). The organic layer was separated, dried over sodium sulfate, and concentrated via rotovap to give crude product. The crude was purified by chromatography to obtain the title compound. Found MS (ES+): 254(M+H)+.

reactant | 3-Bromo-4-methylbenzoic acid | 33 mmol, 8.35 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 33 mmol, 6.31 g | Cl.CN(CCCN=C=NCC)C
reactant | cyclopropylamine | 36 mmol, 2.5 mL | C1(CC1)N | C3H7N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-bromo-N-cyclopropyl-4-methylbenzamide | BrC=1C=C(C(=O)NC2CC2)C=CC1C | C11H12BrNO
